US09079866B2
N-tert-Butyl-3′-fluoro-4′-(5-methoxyimidazo[1,2-a]pyridin-2-yl)biphenyl-2-sulfonamide
The title compound was prepared using methods analogous to those described in Example 88 using 2-(4-bromo-2-fluorophenyl)-5-methoxyimidazo[1,2-a]pyridine and 2-(tert-butylamino)sulfonylphenylboronic acid. MS (ESI): mass calcd. for C24H24FN3O3S, 453.15; m/z found, 454.4 [M+H]+. 1H NMR (500 MHz, CDCl3) δ 8.58 (m, 1H), 8.19 (dd, J=8.0, 1.4, 1H), 8.10 (d, J=3.9, 1H), 7.81 (dd, J=6.7, 0.9, 1H), 7.60-7.55 (m, 1H), 7.54-7.48 (m, 1H), 7.43 (dd, J=12.1, 1.7, 1H), 7.38-7.32 (m, 2H), 6.73 (dd, J=7.6, 6.7, 1H), 6.50 (d, J=7.6, 1H), 4.07 (s, 3H), 3.68 (s, 1H), 1.02 (s, 9H).

reactant | 2-(4-bromo-2-fluorophenyl)-5-methoxyimidazo[1,2-a]pyridine | BrC1=CC(=C(C=C1)C=1N=C2N(C(=CC=C2)OC)C1)F | C14H10BrFN2O
reactant | 2-(tert-butylamino)sulfonylphenylboronic acid | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)B(O)O | C10H16BNO4S
product | N-tert-Butyl-3′-fluoro-4′-(5-methoxyimidazo[1,2-a]pyridin-2-yl)biphenyl-2-sulfonamide | C(C)(C)(C)NS(=O)(=O)C=1C(=CC=CC1)C1=CC(=C(C=C1)C=1N=C2N(C(=CC=C2)OC)C1)F | C24H24FN3O3S
